US09126976B2
(R)-3-[(2-aminophenyl)amino]-1,1,1-trifluoropropan-2-ol (133 mg, 0.603 mmol) was dissolved in DMF (5024 μl). 2-Bromo-1-phenylethanone (100 mg, 0.502 mmol) and Hunig's Base (88 μl, 0.502 mmol) were added and the mixture was stirred at 25° C. for 4 hours. Sodium triacetoxyborohydride was added (639 mg, 3.01 mmol), and the reaction mixture was stirred at 25° C. for 12 hours. The reaction was heated to 80° C. for 2 hours, then was cooled to 25° C., and 3-(trifluoromethoxy)benzaldehyde (144 μl, 1.005 mmol) was added. The reaction mixture was stirred at 25° C. for 2 hours, and then was heated to 50° C. for 10 hours. The reaction mixture was quenched with saturated ammonium chloride solution and then was extracted into EtOAc. The organic phase was washed four times with water, then once with brine, then was dried with MgSO4, filtered, concentrated, and purified on a 40 g silica gel column with a 0-100% DCM/Hexanes gradient. (R)-1,1,1-trifluoro-3-{2-phenyl-4-[3-(trifluoromethoxy)benzyl]-3,4-dihydroquinoxalin-1(2H)-yl}propan-2-ol was isolated as a 10:3 (R:S) mixture of diastereomers. This mixture was purified with reverse phase C18 chromatography with a 50-100% MeCN/H2O gradient with 0.1% TFA modifier. Diastereomerically pure (R)-3-((R)-4-(3-trifluoromethoxy)-2-phenyl-3,4-dihydroquinoxalin-1(2H)-yl)-1,1,1-trifluoro-propan-2-ol was isolated. 1H NMR (400 MHz, CDCl3) δ 3.28 (dd, J=9.2, 2.8 Hz, 1H), 3.39 (dd, J=12.4, 8.0 Hz, 1H), 3.63 (dd, J=8.8, 2.8 Hz, 1H), 3.83 (d, J=12.4 Hz, 1H), 4.24 (d, J=8.8 Hz, 1H), 4.37 (d, J=8.8 Hz, 1H), 4.42 (m, 1H), 4.87 (s, 1H), 6.56 (d, J=6.4 Hz, 1H), 6.70 (m, 2H), 6.82 (m, 2H), 6.93 (d, J=6 Hz, 1H), 7.04 (d, J=6.4 Hz, 2H), 7.22 (m, 3H), 7.33 (m, 3H), MS m/z=497.28.

reactant | (R)-3-[(2-aminophenyl)amino]-1,1,1-trifluoropropan-2-ol | 0.603 mmol, 133 mg | NC1=C(C=CC=C1)NC[C@H](C(F)(F)F)O | C9H11F3N2O
reactant | 2-Bromo-1-phenylethanone | 0.502 mmol, 100 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | Hunig's Base | 0.502 mmol, 88 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | Sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-(trifluoromethoxy)benzaldehyde | 1.005 mmol, 144 μl | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
solvent | DMF | 5024 μl | CN(C)C=O | C3H7NO
product | (R)-1,1,1-trifluoro-3-{2-phenyl-4-[3-(trifluoromethoxy)benzyl]-3,4-dihydroquinoxalin-1(2H)-yl}propan-2-ol | FC([C@@H](CN1C(CN(C2=CC=CC=C12)CC1=CC(=CC=C1)OC(F)(F)F)C1=CC=CC=C1)O)(F)F | C25H22F6N2O2
